
.SUBCKT  MPZ3216S500A  1 2
R1 1 3 70
L1 1 3 10E-9
C1 1 3 380E-15
Rdc 3 2 5E-3
.ENDS

.SUBCKT HF70ACC453215  1 2
R1 1 3 90 
L1 1 3 1190E-9
C1 1 3 110e-15
Rdc 3 2 45E-3
.ENDS

.SUBCKT HF70ACC322513  1 2
R1 1 3 50 
L1  1 3 650E-9
Rdc 3 2 40E-3
.ENDS

.SUBCKT HF70ACC321611  1 2
R1 1 3 20 
L1  1 3 300E-9
Rdc 3 2 40E-3
.ENDS

.SUBCKT HF50ACC453215  1 2
R1 1 3 140 
L1 1 3 490E-9
C1 1 3 220e-15
Rdc 3 2 45E-3
.ENDS

.SUBCKT HF50ACC322513  1 2
R1 1 3 70 
L1 1 3 250E-9
C1 1 3 60e-15
Rdc 3 2 40E-3
.ENDS

.SUBCKT HF50ACC201209  1 2
R1 1 3 20 
L1  1 3 40E-9
Rdc 3 2 20E-3
.ENDS

.SUBCKT HF30ACC322513  1 2
R1 1 3 90 
L1 1 3 30E-9
C1 1 3 70e-15
Rdc 3 2 40E-3
.ENDS

.SUBCKT HF30ACC201209  1 2
R1 1 3 30 
L1  1 3 10E-9
Rdc 3 2 20E-3
.ENDS

.SUBCKT  ACC4516L700  1 2
R1 1 3 60
L1 1 3 380E-9
C1 1 3 30E-15
Rdc 3 2 9E-3
.ENDS

.SUBCKT  ACC3216L500  1 2
R1 1 3 40
L1 1 3 260E-9
C1 1 3 10E-15
Rdc 3 2 7E-3
.ENDS

.SUBCKT ACC2012L250  1 2
R1 1 3 20 
L1  1 3 140E-9
Rdc 3 2 3E-3
.ENDS

.SUBCKT ACB2012M600  1 2
R1 1 3 640 
L1  1 3 1780E-9
C1  1 3 1000E-15
Rdc 3 2 950E-3
.ENDS

.SUBCKT ACB2012M300  1 2
R1 1 3 370 
L1  1 3 750E-9
C1  1 3 550E-15
Rdc 3 2 500E-3
.ENDS

.SUBCKT ACB2012M120  1 2
R1 1 3 190 
L1  1 3 330E-9
C1  1 3 470E-15
Rdc 3 2 160E-3
.ENDS

.SUBCKT ACB2012M080  1 2
R1 1 3 130 
L1  1 3 230E-9
C1  1 3 290E-15
Rdc 3 2 110E-3
.ENDS

.SUBCKT ACB2012M040  1 2
R1 1 3 60 
L1  1 3 110E-9
Rdc 3 2 70E-3
.ENDS

.SUBCKT ACB2012L600  1 2
R1 1 3 610 
L1  1 3 2520E-9
C1  1 3 1180E-15
Rdc 3 2 1180E-3
.ENDS

.SUBCKT ACB2012L300  1 2
R1 1 3 310 
L1  1 3 1340E-9
C1  1 3 1010E-15
Rdc 3 2 450E-3
.ENDS

.SUBCKT ACB2012L120  1 2
R1 1 3 140 
L1  1 3 630E-9
C1  1 3 360E-15
Rdc 3 2 270E-3
.ENDS

.SUBCKT ACB2012L060  1 2
R1 1 3 80 
L1  1 3 480E-9
C1  1 3 90E-15
Rdc 3 2 70E-3
.ENDS

.SUBCKT ACB2012L030  1 2
R1 1 3 30 
L1  1 3 250E-9
Rdc 3 2 60E-3
.ENDS

.SUBCKT ACB2012L015  1 2
R1 1 3 20 
L1  1 3 130E-9
Rdc 3 2 10E-3
.ENDS

.SUBCKT ACB2012H300  1 2
R1 1 3 800 
L1  1 3 410E-9
C1  1 3 1260E-15
Rdc 3 2 680E-3
.ENDS

.SUBCKT ACB2012H120  1 2
R1 1 3 360 
L1  1 3 190E-9
C1  1 3 730E-15
Rdc 3 2 320E-3
.ENDS

.SUBCKT ACB2012H060  1 2
R1 1 3 170 
L1  1 3 90E-9
C1  1 3 380E-15
Rdc 3 2 160E-3
.ENDS

.SUBCKT ACB2012H030  1 2
R1 1 3 100 
L1  1 3 50E-9
C1  1 3 280E-15
Rdc 3 2 100E-3
.ENDS

.SUBCKT ACB2012H015  1 2
R1 1 3 50 
L1  1 3 30E-9
Rdc 3 2 70E-3
.ENDS

.SUBCKT ACB1608M600  1 2
R1 1 3 690 
L1  1 3 1440E-9
C1  1 3 730E-15
Rdc 3 2 1220E-3
.ENDS

.SUBCKT ACB1608M300  1 2
R1 1 3 350 
L1  1 3 610E-9
C1  1 3 520E-15
Rdc 3 2 770E-3
.ENDS

.SUBCKT ACB1608M080  1 2
R1 1 3 110 
L1  1 3 210E-9
C1  1 3 230E-15
Rdc 3 2 240E-3
.ENDS

.SUBCKT ACB1608M040  1 2
R1 1 3 60 
L1  1 3 130E-9
Rdc 3 2 70E-3
.ENDS

.SUBCKT ACB1608L300  1 2
R1 1 3 320 
L1  1 3 1240E-9
C1  1 3 690E-15
Rdc 3 2 800E-3
.ENDS

.SUBCKT ACB1608L120  1 2
R1 1 3 120 
L1  1 3 570E-9
C1  1 3 270E-15
Rdc 3 2 280E-3
.ENDS

.SUBCKT ACB1608L060  1 2
R1 1 3 80 
L1  1 3 450E-9
C1  1 3 100E-15
Rdc 3 2 170E-3
.ENDS

.SUBCKT ACB1608L030  1 2
R1 1 3 30 
L1  1 3 220E-9
Rdc 3 2 140E-3
.ENDS

.SUBCKT ACB1608L015   1 2
R1 1 3 20 
L1  1 3 140E-9
Rdc 3 2 15E-3
.ENDS

.SUBCKT ACB1608H300  1 2
R1 1 3 670
L1  1 3 380E-9
C1  1 3 740E-15
Rdc 3 2 1150E-3
.ENDS

.SUBCKT ACB1608H120  1 2
R1 1 3 330
L1  1 3 170E-9
C1  1 3 670E-15
Rdc 3 2 410E-3
.ENDS

.SUBCKT ACB1608H060  1 2
R1 1 3 160 
L1  1 3 80E-9
C1  1 3 290E-15
Rdc 3 2 240E-3
.ENDS

.SUBCKT ACB1608H015   1 2
R1 1 3 50 
L1  1 3 20E-9
Rdc 3 2 180E-3
.ENDS

.SUBCKT ACA3216M4-600  1 2
R1 1 3 560
L1 1 3 1290E-9
C1 1 3 810E-15
Rdc 3 2 1050E-3
.ENDS

.SUBCKT ACA3216M4-300  1 2
R1 1 3 360
L1 1 3 820E-9
C1 1 3 650E-15
Rdc 3 2 500E-3
.ENDS

.SUBCKT ACA3216M4-120  1 2
R1 1 3 190
L1 1 3 330E-9
C1 1 3 210E-15
Rdc 3 2 350E-3
.ENDS

.SUBCKT ACA3216M4-060  1 2
R1 1 3 90
L1 1 3 140E-9
C1 1 3 100E-15
Rdc 3 2 130E-3
.ENDS

.SUBCKT ACA3216M3-600  1 2
R1 1 3 560
L1 1 3 1440E-9
C1 1 3 1280E-15
Rdc 3 2 600E-3
.ENDS

.SUBCKT ACA3216H4-300  1 2
R1 1 3 650
L1 1 3 500E-9
C1 1 3 830E-15
Rdc 3 2 850E-3
.ENDS

.SUBCKT ACA3216H4-120  1 2
R1 1 3 310
L1 1 3 210E-9
C1 1 3 730E-15
Rdc 3 2 400E-3
.ENDS

.SUBCKT MPZ2012S221A  1 2
R1 1 3 200
L1 1 3 680E-9
C1 1 3 870E-15
Rdc 3 2 20E-3
.ENDS

.SUBCKT MPZ2012S331A  1 2
R1 1 3 340
L1 1 3 790E-9
C1 1 3 1400E-15
Rdc 3 2 30E-3
.ENDS

.SUBCKT MPZ2012S300A  1 2
R1 1 3 40
L1 1 3 8E-9
C1 1 3 160E-15
Rdc 3 2 5E-3
.ENDS

.SUBCKT ACB1608M120  1 2
R1 1 3 150 
L1  1 3 290E-9
C1  1 3 320E-15
Rdc 3 2 330E-3
.ENDS

.SUBCKT HF70ACC201209  1 2
R1 1 3 10 
L1  1 3 90E-9
Rdc 3 2 20E-3
.ENDS

.SUBCKT HF50ACC321611  1 2
R1 1 3 40 
L1  1 3 130E-9
Rdc 3 2 40E-3
.ENDS

.SUBCKT HF30ACC453215  1 2
R1 1 3 180 
L1 1 3 100E-9
C1 1 3 180e-15
Rdc 3 2 45E-3
.ENDS

.SUBCKT HF30ACC321611  1 2
R1 1 3 50 
L1  1 3 30E-9
Rdc 3 2 40E-3
.ENDS

.SUBCKT ACA3216H4-060  1 2
R1 1 3 170
L1 1 3 110E-9
C1 1 3 370E-15
Rdc 3 2 250E-3
.ENDS

.SUBCKT ACB1608H030  1 2
R1 1 3 100 
L1  1 3 40E-9
C1  1 3 110E-15
Rdc 3 2 180E-3
.ENDS

.SUBCKT MPZ2012S101A  1 2
R1 1 3 110
L1 1 3 620E-9
C1 1 3 520E-15
Rdc 3 2 15E-3
.ENDS


